US04728357
10.6 parts by weight of 2-butyryl-4-methoxycarbonyl-5-(2-allylthiopropyl)-cyclohexane-1,3-diol are dissolved in 150 parts by volume of ethanol, 3.3 parts by weight of allyloxiammonium chloride and 2.9 parts by weight of sodium acetate are added and the mixture is stirred for 20 hours at room temperature. Thereafter, the mixture is poured into ice water, the resulting mixture is extracted with methylene chloride and the latter is stripped off to give 11.3 g of 2-(1-allyloxibutylidene)-4-methoxycarbonyl-5-(2-allylthiopropyl)-cyclohexane-1,3-dione as a yellow oil.

reactant | 2-butyryl-4-methoxycarbonyl-5-(2-allylthiopropyl)-cyclohexane-1,3-diol | C(CCC)(=O)C1C(CC(C(C1O)C(=O)OC)CC(C)SCC=C)O | C18H30O5S
reactant | allyloxiammonium chloride | [Cl-].C(C=C)O[NH3+]
solvent | ethanol | C(C)O | C2H6O
solvent | sodium acetate | C(C)(=O)[O-].[Na+]
product | 2-(1-allyloxibutylidene)-4-methoxycarbonyl-5-(2-allylthiopropyl)-cyclohexane-1,3-dione | 11.3 g | C(C=C)OC(CCC)=C1C(CC(C(C1=O)C(=O)OC)CC(C)SCC=C)=O | C21H30O5S
